US09084794B2
c) 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-N-methylacetamide
A solution of 2-bromo-2-(4-bromo-2-fluorophenyl)-N-methylacetamide (0.579 mmol) in N,N-dimethylformamide (3 mL) was treated with potassium carbonate (1.715 mmol) and 4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one hydrochloride (0.632 mmol). The reaction was allowed to stir at room temperature overnight. The reaction solution was then diluted with water (50 mL) and was extracted three times with dichloromethane. The organic layers were combined and were washed with water three times, twice with brine, dried over sodium sulfate, filtered and concentrated in vacuo. Purification of the residue by silica gel chromatography (0-6% methanol/dichloromethane) afforded the title compound as a yellow oil (185 mg, 63% yield). MS(ES)+ m/e 454.0/455.9 [M+H]+ (bromide isotope pattern).

reactant | 2-bromo-2-(4-bromo-2-fluorophenyl)-N-methylacetamide | 0.579 mmol | BrC(C(=O)NC)C1=C(C=C(C=C1)Br)F | C9H8Br2FNO
reactant | potassium carbonate | 1.715 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | 4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one hydrochloride | 0.632 mmol | Cl.C1(CC1)N1C(COC2(C1)CCNCC2)=O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | water | 50 mL | O | H2O
product | 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-N-methylacetamide | 185 mg, 63% yield | BrC1=CC(=C(C=C1)C(C(=O)NC)N1CCC2(CN(C(CO2)=O)C2CC2)CC1)F | C20H25BrFN3O3
